US04116962
N-[2-(Mercaptomethyl)-3-mercaptopropanoyl]-L-threonine
By substituting L-threonine for the L-proline in the procedure of Example 3B, and then submitting the product to the procedure of Example 4, N-[2-(acetylthiomethyl)-3-(acetylthio)propanoyl]-L-threonine and 1-[2-(mercaptomethyl)-3-mercaptopropanoyl]-L-threonine are obtained.

reactant | L-threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-[2-(acetylthiomethyl)-3-(acetylthio)propanoyl]-L-threonine | C(C)(=O)SCC(C(=O)N[C@@H]([C@H](O)C)C(=O)O)CSC(C)=O | C12H19NO6S2
product | N-[2-(Mercaptomethyl)-3-mercaptopropanoyl]-L-threonine | SCC(C(=O)N[C@@H]([C@H](O)C)C(=O)O)CS | C8H15NO4S2
